US06826033B2
To a solution of tert-butyl N-[(1S)-1-(4-aminobenzyl)-2-hydroxyethyl]-N-[(2S)-2-hydroxy-3-phenoxypropyl]carbamate (200 mg) in N,N-dimethylformamide (2.0 ml) was added successively 1-methyl-1H-pyrrole-2-caroxylic acid (72.1 mg) and 1-hydroxybenzotriazole hydrate (77.9 mg). To the mixture was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (110 mg) at room temperature and the mixture was stirred overnight. The mixture was diluted with ethyl acetate (20 ml) and washed with water (20 ml×2), a saturated aqueous sodium hydrogencarbonate solution (20 ml×1) and brine (20 ml×1) successively. The organic solution was dried over magnesium sulfate, filtered, and evaporated to give a yellow solid. The crude product was purified by a recycling preparative high pressure liquid chromatography equipped with a gel permeation chromatography column (eluent: chloroform) to give tert-butyl N-[(1S)-2-hydroxy-1-[4-[[(1-methyl-1H-pyrrol-2-yl)carbonyl]amino]benzyl]ethyl]-N-[(2S)-2-hydroxy-3-phenoxypropyl]carbamate (163 mg) as a white foam.

reactant | tert-butyl N-[(1S)-1-(4-aminobenzyl)-2-hydroxyethyl]-N-[(2S)-2-hydroxy-3-phenoxypropyl]carbamate | 200 mg | NC1=CC=C(C[C@@H](CO)N(C(OC(C)(C)C)=O)C[C@@H](COC2=CC=CC=C2)O)C=C1 | C23H32N2O5
reactant | 1-methyl-1H-pyrrole-2-caroxylic acid | 72.1 mg | CN1C(=CC=C1)C(=O)O | C6H7NO2
reactant | 1-hydroxybenzotriazole hydrate | 77.9 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 110 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-[(1S)-2-hydroxy-1-[4-[[(1-methyl-1H-pyrrol-2-yl)carbonyl]amino]benzyl]ethyl]-N-[(2S)-2-hydroxy-3-phenoxypropyl]carbamate | 163 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)C=1N(C=CC1)C)N(C(OC(C)(C)C)=O)C[C@@H](COC1=CC=CC=C1)O | C29H37N3O6
